US04868301
Ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate
A mixture of ethyl-4-oxo-3-H-phthalazin-1-ylacetate (23.42 g), ethanol (200 ml) and aqueous formaldehyde (37% concentration, 100 ml) was refluxed for 40 hours. This solution was concentrated to 100 ml and was then poured onto ice water (750 ml). The precipitated solid was collected and air-dried (yield: 17.1 g; m.p. 113°-114° C.).

reactant | ethyl-4-oxo-3-H-phthalazin-1-ylacetate | 23.42 g | C(C)OC(CC1=NNC(C2=CC=CC=C12)=O)=O | C12H12N2O3
reactant | formaldehyde | 100 ml | C=O | CH2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | Ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CO)=O | C13H14N2O4
